US07728029B2
To a solution of 5-chloro-1-[2-(2-methoxyethoxy)-ethyl]-1H-pyrazole-4-carboxylic acid ethyl ester (3.43 g, 12.39 mmol) in methanol (12 mL) and water (12 mL) was added lithium hydroxide (415 mg, 17.3 mmol). The reaction mixture was stirred at reflux for 3 h, and then the solution was concentrated under reduced pressure to remove the methanol. The residue was then acidified carefully with 6.0 N aqueous HCl. The resulting mixture was extracted with methylene chloride (3×50 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated in vacuo to provide 5-chloro-1-[2-(2-methoxyethoxy)-ethyl]-1H-pyrazole-4-carboxylic acid as a white solid (2.65 g, 86%). Mass spectrum: m/z: 249.0 (M+1).

reactant | 5-chloro-1-[2-(2-methoxyethoxy)-ethyl]-1H-pyrazole-4-carboxylic acid ethyl ester | 12.39 mmol, 3.43 g | C(C)OC(=O)C=1C=NN(C1Cl)CCOCCOC | C11H17ClN2O4
reactant | lithium hydroxide | 17.3 mmol, 415 mg | [OH-].[Li+]
solvent | methanol | 12 mL | CO | CH4O
solvent | water | 12 mL | O | H2O
product | 5-chloro-1-[2-(2-methoxyethoxy)-ethyl]-1H-pyrazole-4-carboxylic acid | 2.65 g, 86% | ClC1=C(C=NN1CCOCCOC)C(=O)O | C9H13ClN2O4
